US08222263B2
A stirred mixture of 4-(1-methylpiperidin-4-yl)quinazolin-2(1H)-one (500 mg, 2.29 mmol) and phosphorous oxychloride (5 mL, 56 mmol) was heated to reflux for 3 h. The reaction was then concentrated on a rotary evaporator and treated with ice water. The aqueous mixture was then extracted with ethyl acetate, and the combined organic extracts were dried over sodium sulfate, filtered and concentrated on a rotary evaporator. The residue was treated with 4-aminobenzoic acid (534 mg, 3.90 mmol), triethylamine (660 μL, 4.58 mmol) and n-butanol (5 mL) and the mixture was heated to 140° C. for 25 min. The mixture was cooled and the solvent removed on a rotary evaporator. This material was then treated with HATU (1.63 g, 4.29 mmol) and Hunig's base (1.1 mL, 6.3 mmol) in dimethylformamide (10 mL) and the mixture stirred until it became homogenous. To this mixture was added 2,6-dimethylaniline (620 mg, 5.12 mmol) and the reaction was heated to 50° C. overnight. The mixture was cooled to rt, diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with 1 N sodium bicarbonate and a 5% aqueous solution of lithium chloride, then was extracted with 1 N hydrochloric acid. The combined acidic washes were neutralized with 1 N sodium hydroxide and extracted with dichloromethane. These combined organic extracts were dried over sodium sulfate, filtered and concentrated on a rotary evaporator. Purification of this material via preparative reverse phase HPLC gave N-(2,6-dimethylphenyl)-4-{[4-(1-methylpiperidin-4-yl)quinazolin-2-yl]amino}benzamide as a white solid (19.7 mg, 2%). 1H NMR (400 MHz, CDCl3): δ 8.02-7.95 (m, 5H), 7.85-7.72 (m, 3H), 7.44-7.32 (m, 2H), 7.18-7.08 (m, 3H), 4.20-3.65 (br s, 3H), 3.55-3.45 (m, 1H), 3.20 (d, 2H), 2.44 (s, 3H), 2.39-2.18 (m, 10H), 2.07 (s, 2H), 1.99 (d, 2H). MS (EI) for C29H31N5O: 466.0 (MH+).

reactant | 4-(1-methylpiperidin-4-yl)quinazolin-2(1H)-one | 2.29 mmol, 500 mg | CN1CCC(CC1)C1=NC(NC2=CC=CC=C12)=O | C14H17N3O
reactant | phosphorous oxychloride | 56 mmol, 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-aminobenzoic acid | 3.90 mmol, 534 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | triethylamine | 4.58 mmol, 660 μL | C(C)N(CC)CC | C6H15N
reactant | HATU | 4.29 mmol, 1.63 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 6.3 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,6-dimethylaniline | 5.12 mmol, 620 mg | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | N-(2,6-dimethylphenyl)-4-{[4-(1-methylpiperidin-4-yl)quinazolin-2-yl]amino}benzamide | 19.7 mg, 2% | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1CCN(CC1)C)=O | C29H31N5O
